US07232821B2
6-{2-[5-Fluoro-2-(methoxy)phenyl]cyclopent-1-enyl}pyridine-2-carboxylic acid ethyl ester
Prepared by general procedure B(iii) but using 5-fluoro-2-methoxyphenylboronic acid instead of (5-chloro-2-benzyloxyphenyl)boronic acid and 6-(2-bromocyclopent-1-enyl)-pyridine-2-carboxylic acid ethyl ester instead of 3-(2-bromocyclopent-1-enyl)-6-methylbenzoic acid ethyl ester.

reactant | 5-fluoro-2-methoxyphenylboronic acid | FC=1C=CC(=C(C1)B(O)O)OC | C7H8BFO3
reactant | 6-(2-bromocyclopent-1-enyl)-pyridine-2-carboxylic acid ethyl ester | C(C)OC(=O)C1=NC(=CC=C1)C1=C(CCC1)Br | C13H14BrNO2
product | 6-{2-[5-Fluoro-2-(methoxy)phenyl]cyclopent-1-enyl}pyridine-2-carboxylic acid ethyl ester | C(C)OC(=O)C1=NC(=CC=C1)C1=C(CCC1)C1=C(C=CC(=C1)F)OC | C20H20FNO3
